US08859534B2
N-(1-(3-Chloropyridin-2-yl)piperidin-4-yl)-7-(4-(2-(pyridin-2-yl)ethyl)piperazin-1-yl)benzofuran-2-carboxamide
The compound was prepared according to the procedure disclosed in Example 1 starting from lithium 7-(4-(2-(pyridin-2-yl)ethyl)piperazin-1-yl)benzofuran-2-carboxylate (80 mg, 0.21 mmol) and 1-(3-chloropyridin-2-yl)piperidin-4-amine (57 mg, 0.27 mmol). Yield: 50 mg (40%).

reactant | lithium 7-(4-(2-(pyridin-2-yl)ethyl)piperazin-1-yl)benzofuran-2-carboxylate | 0.21 mmol, 80 mg | N1=C(C=CC=C1)CCN1CCN(CC1)C1=CC=CC=2C=C(OC21)C(=O)[O-].[Li+]
reactant | 1-(3-chloropyridin-2-yl)piperidin-4-amine | 0.27 mmol, 57 mg | ClC=1C(=NC=CC1)N1CCC(CC1)N | C10H14ClN3
product | N-(1-(3-Chloropyridin-2-yl)piperidin-4-yl)-7-(4-(2-(pyridin-2-yl)ethyl)piperazin-1-yl)benzofuran-2-carboxamide | ClC=1C(=NC=CC1)N1CCC(CC1)NC(=O)C=1OC2=C(C1)C=CC=C2N2CCN(CC2)CCC2=NC=CC=C2 | C30H33ClN6O2
